US06855722B2
a) 3-{5-[2-(6-Methylamino-pyridin-2-yl)-ethoxy]-indol-1-yl}-hexanoic acid ethyl ester
The title compound was synthesized from 2-(6-methylamino-pyridin-2-yl)-ethanol and 3-(5-hydroxy-indol-1-yl)-hexanoic acid ethyl ester using the procedure described in Example 14, step (c), in 25% yield. The crude product was used in the next step without further purification.

reactant | 2-(6-methylamino-pyridin-2-yl)-ethanol | CNC1=CC=CC(=N1)CCO | C8H12N2O
reactant | 3-(5-hydroxy-indol-1-yl)-hexanoic acid ethyl ester | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)O)=O | C16H21NO3
product | 3-{5-[2-(6-Methylamino-pyridin-2-yl)-ethoxy]-indol-1-yl}-hexanoic acid ethyl ester | 25% yield | C(C)OC(CC(CCC)N1C=CC2=CC(=CC=C12)OCCC1=NC(=CC=C1)NC)=O | C24H31N3O3
